US04818819
A mixture of 2.0 g of 6-bromo-2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidine, 2.1 g of diethyl N-(4-ethynylbenzoyl)-L-glutamate, 2.57 ml of triethylamine, 0.11 g of palladium chloride, 0.32 g of triphenylphosphine, and 0.05 g of cuprous chloride in 150 ml of acetonitrile is heated at reflux under nitrogen for 2.5 hours. The solid which forms upon first cooling to room temperature is collected by filtration, and washed with cold acetonitrile to yield 1.91 g of diethyl N-[4-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl)benzoyl]-L-glutamate which is sufficiently pure for further processing. Chromatography on silica gel with 5% methanol:methylene chloride showing the following physical properties. m.p. >250° C.; NMR (CDCl3, 300 MHz) delta 1.25 (t, 3H, J=7.20 Hz), 1.33 (t, 3H, J=7.20 Hz), 1.36 (s, 9H), 2.14-2.62 (m, 4H), 4.14 (q, 2H, J= 7.20 Hz), 4.27 (q, 2H, J=7.20 Hz) 4.79-4.86 (m, 1H), 7.30 (d, 1H, J=8.40 Hz), 7.63 (d, 2H, J=8.25 Hz), 7.86 (d, 2H, J=8.25 Hz), 8.51 (brs, 1H), 8.64 (d, 1H, J=2.40 Hz), 8.97 (d, 1H, J=2.40 Hz), 12.2 (brs, 1H); IR (KBr) 3330, 3290, 2970, 1730, 1655, 1590, 1530, 1440, 1370, 1260, 1140, 1020, 965, 925, 850, 810, and 760 cm-1 ; 13C-NMR (CDCl3, 75 MHz) delta 14.3, 27.1, 27.2, 30.7, 40.6, 52.7, 61.1, 62.0, 87.61, 92.71, 115.1, 117.3, 125.9, 127.4, 127.5, 132.0, 133.9, 138.7, 149.6, 157.8, 158.6, 160.5, 166.4 172.1, 173.5, 180.8.

reactant | 6-bromo-2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidine | 2.0 g | BrC1=CC2=C(N=C(N=C2O)NC(C(C)(C)C)=O)N=C1 | C12H13BrN4O2
reactant | diethyl N-(4-ethynylbenzoyl)-L-glutamate | 2.1 g | C(#C)C1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1 | C18H21NO5
reactant | triethylamine | 2.57 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
catalyst | palladium chloride | 0.11 g | [Pd](Cl)Cl
product | diethyl N-[4-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl)benzoyl]-L-glutamate | 1.91 g | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C#CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C30H33N5O7
